US09428510B2
10 mg of 10% Pd/C is added to 100 mg (0.175 mmol) of N-(5-((3,5-difluorophenyl)ethynyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide in solution in a mixture of 10 ml of tetrahydrofuran and 5 ml of methanol before placing the reaction medium under an atmosphere of hydrogen. The reaction mixture is stirred for 12 hours at room temperature and then filtered on Celite and concentrated. 62 mg (yield=60%) of N-(5-(3,5-difluorophenethyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide are isolated in the form of a white solid.

reactant | N-(5-((3,5-difluorophenyl)ethynyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 0.175 mmol, 100 mg | FC=1C=C(C=C(C1)F)C#CC=1C=C2C(=NC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O | C31H31F2N7O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | N-(5-(3,5-difluorophenethyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 62 mg, yield=60% | FC=1C=C(CCC=2C=C3C(=NC2)NN=C3NC(C3=C(C=C(C=C3)N3CCN(CC3)C)NC3CCOCC3)=O)C=C(C1)F | C31H35F2N7O2
